US07700589B2
4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide
A mixture of 400 mg (1.04 mmol) (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-propan-1-one, 205 mg (1.25 mmol) CDT, 0.2 mL (1.15 mmol) ethyldiisopropylamine and 50 mL THF was stirred for 1 h while cooling with an ice bath and stirred for 1 h at RT, then combined with 270 mg (1.11 mmol) 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one and refluxed for 4 h. The reaction mixture was evaporated down under reduced pressure, the residue was combined with saturated NaHCO3 solution and exhaustively extracted with DCM. The combined organic phases were dried, evaporated down under reduced pressure and the residue was purified by chromatography on silica gel. The product fractions were evaporated down under reduced pressure, the residue was triturated with diisopropylether, suction filtered and dried.

reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-propan-1-one | 1.04 mmol, 400 mg | N[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C)CC1=CC(=C(C=C1)CC)CC | C23H38N4O
reactant | ethyldiisopropylamine | 1.15 mmol, 0.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one | 1.11 mmol, 270 mg | C1(=CC=CC=C1)C=1NC(N(N1)C1CCNCC1)=O | C13H16N4O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2N=C(NC2=O)C2=CC=CC=C2)C=CC1CC | C37H52N8O3
